### PR TITLE
feat(Tactic): add `unify_denoms` and `collect_signs` tactics

### PR DESCRIPTION
**Pull request by miguelmarco**
This PR adds four  new tactics: 

- `unify_denoms` tries to put expressions with several divisions in a form with only one division. In the case of fields, it works similarly to `field_simp`, but if the hypothesis about denominators being nonzero are not present, it assumes them, and leaves them as new goals to prove. In that sense, it is an "unsafe" tactic (but can be useful nevertheless, for example when you can't find which exact hypothesis is missing). It also works with expressions of naturals and Euclidean domains, assuming the corresponding hypothesis about the denominators dividing the numerators.

- `unify_denoms!` extends `unify_denoms` to work with (in)equalities, assuming also that the denominators, once in normal form, are positive.

- `collect_signs` works similarly with expressions using sums and substractions: it tries to put them in a form of one sum minus other sum. In the case of working with naturals, it assumes that we never substract a bigger number from a smaller one.

Both are implemented essentially as a macro that combines several rewriting rules. Some new lemmas with the corresponding rules are added.

---

### CODE REVIEW

**Comment by miguelmarco** [comment]
Hi, thanks for rescuing this!

I will try to find som time to split this into the lemmas and the tactic.

One of the reasons I opted to implement this as a chain of attempted rewrites, is that I wanted to try to rewrite even in cases where the some extra hypothesis is needed (such as a denominator being nonzero), and then present those hypothesis as new goals to be proven. I don't know if  the simp set approach allows this.

**Comment by kbuzzard** [comment]
Yes, as a rule of thumb PRs of this size which do several things at once are very difficult to get merged. But PRs which just add a bunch of lemmas in a file are much easier to review. If you're still interested in getting this over the line then you could start with adding lemmas (although of course they might well be there by now, perhaps with different names; `exact?` will be a huge help here).

**Comment by miguelmarco** [comment]
> Yes, as a rule of thumb PRs of this size which do several things at once are very difficult to get merged. But PRs which just add a bunch of lemmas in a file are much easier to review. If you're still interested in getting this over the line then you could start with adding lemmas (although of course they might well be there by now, perhaps with different names; `exact?` will be a huge help here).

In how many pieces would you divide this PR? One per file maybe?

**Comment by joneugster** [comment]
at minimum one PR with everything which doesn't go into `Mathlib.Tactic` should be fine, but if you made up to 5 PRs one per file, you might increase your chance of parallel reviews :)

**Comment by miguelmarco** [comment]
For the moment, I created #23076. I will create some other similar PR's in the following days.

**Comment by miguelmarco** [comment]
Next one:  #23100.

**Comment by miguelmarco** [comment]
Now that the lemmas are included in separated PR's, I rebased  and left only the tactics (plus some last time lemmas), and some tests.

File: MathlibTest/unify_denoms.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+  ring_nf
+
+example (n : ℕ) : ∑ i ∈ Icc 0 n, i  = (n * (n + 1)) / 2 := by
+  induction' n with n hn
+  · simp
+  · rw [Finset.sum_Icc_succ_top, hn]
+    unify_denoms
+    ring_nf
+
+example (n : ℕ) : ∑ i ∈ Icc 0 n, i ^ 2   = (n  * (n + 1) * (2* n + 1)) / 6 := by
```
Comment (kbuzzard) [inline MathlibTest/unify_denoms.lean:17]: spacing

File: MathlibTest/unify_denoms.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
+import Mathlib
+
+open BigOperators
+open Finset
+
+example (n : ℕ )  : n * (n + 1) / 2 + n + 1 = (n + 1) * (n + 2) / 2 := by
+  unify_denoms
+  ring_nf
+
+example (n : ℕ) : ∑ i ∈ Icc 0 n, i  = (n * (n + 1)) / 2 := by
```
Comment (kbuzzard) [inline MathlibTest/unify_denoms.lean:10]: spacing

File: MathlibTest/unify_denoms.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+  induction' n with n hn
```
Comment (kbuzzard) [inline MathlibTest/unify_denoms.lean:11]: `induction` is now preferred

File: MathlibTest/unify_denoms.lean [hunk 4]
```diff
@@ -0,0 +1,36 @@
...
+  · simp
+  · rw [Finset.sum_Icc_succ_top, hn]
+    unify_denoms
+    ring_nf
+
+example (n : ℕ) : ∑ i ∈ Icc 0 n, i ^ 2   = (n  * (n + 1) * (2* n + 1)) / 6 := by
+  induction' n with n hn
```
Comment (kbuzzard) [inline MathlibTest/unify_denoms.lean:18]: `induction` is preferred. Use the tooltip (the light bulb) to see the syntax.

File: MathlibTest/unify_denoms.lean [hunk 5]
```diff
@@ -0,0 +1,36 @@
...
+  · simp
+  · rw [Finset.sum_Icc_succ_top, hn]
+    unify_denoms
+    ring_nf
+
+example  (a b : ℤ ) (h : a ≠ b): (a ^  3 - b ^ 3) / (a - b) = a ^ 2 + a * b + b ^ 2 := by
```
Comment (kbuzzard) [inline MathlibTest/unify_denoms.lean:24]: spacing

File: MathlibTest/unify_denoms.lean [hunk 6]
```diff
@@ -0,0 +1,36 @@
...
+  unify_denoms!
+  ring
+  use a ^ 2 + a * b + b ^ 2
+  ring
+
+example {T : Type} [EuclideanDomain T] (a b : T) (h : a ≠ b): (a ^ 2 - b ^ 2) / (a - b) = a + b := by
```
Comment (kbuzzard) [inline MathlibTest/unify_denoms.lean:30]: spacing

File: Mathlib/Algebra/EuclideanDomain/Basic.lean [hunk 7]
```diff
@@ -97,6 +97,9 @@ theorem mul_div_assoc (x : R) {y z : R} (h : z ∣ y) : x * y / z = x * (y / z)
 protected theorem mul_div_cancel' {a b : R} (hb : b ≠ 0) (hab : b ∣ a) : b * (a / b) = a := by
   rw [← mul_div_assoc _ hab, mul_div_cancel_left₀ _ hb]
 
+lemma div_mul_assoc  {a b : R} (hba : b ∣ a) (c : R) : a / b * c = (a * c) / b := by
+  rw [mul_comm,← EuclideanDomain.mul_div_assoc _ hba, mul_comm]
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Algebra/EuclideanDomain/Basic.lean]: Fixed.

File: Mathlib/Algebra/EuclideanDomain/Basic.lean [hunk 8]
```diff
@@ -398,6 +401,24 @@ theorem div_eq_div_iff_mul_eq_mul_of_dvd {x y z t : R} (h1 : y ≠ 0) (h2 : t 
...
+      apply hb
+      rw [hd,hc,zero_mul]
+    · exact dvd_of_eq rfl
+    · use d
+    · obtain ⟨x, hx⟩ := hbca
+      rw [hd,hx]
+      use x
+      simp_all
+      rw [mul_rotate c d x]
+    simp_all
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Algebra/EuclideanDomain/Basic.lean]: Thanks!

File: Mathlib/Tactic/UnifyDenoms.lean [hunk 9]
```diff
@@ -0,0 +1,186 @@
...
+added as new goals.
+
+The `unify_denoms` tactic tries to unify denominators in expressions, adding the
+necessary hypothesis about denominators being nonzero (and dividing the numerator in the case
+of euclidean domains) as new goals.
+
+The `unify_denoms!` tactic extends `unify_denoms` to work also on
+(in)equalities. In the case of inequalities, it assumes denominators are positive.
+--/
+
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Tactic/UnifyDenoms.lean:32]: Fixed

File: MathlibTest/unify_denoms.lean (hunk 3 above)
Comment (miguelmarco) [reply MathlibTest/unify_denoms.lean]: Done

File: Mathlib/Tactic/UnifyDenoms.lean [hunk 10]
```diff
@@ -0,0 +1,186 @@
...
+  | (rw [one_mul] $[at $location]?) -- 1 * x = x
+  | (rw [mul_one] $[at $location]?) -- x * 1 = x
+  | (rw [mul_div_mul_right] $[at $location]?) -- a * c / (b * c) = a / b
+  | (rw [mul_div_mul_left] $[at $location]?) -- c * a / (c * b) = a / b
+  | (rw [div_add_div] $[at $location]?) -- a / b + c / d = (a * d + b * c) / (b * d)
+  | (rw [div_sub_div] $[at $location]?) -- a / b - c / d = (a * d - b * c) / (b * d)
+  | (rw [add_div'] $[at $location]?) -- b + a / c = (b * c + a) / c
+  | (rw [div_add'] $[at $location]?) -- a / c + b = (a + b * c) / c
+  | (rw [div_sub'] $[at $location]?) -- a / c - b = (a - c * b) / c
+  | (rw [sub_div'] $[at $location]?) -- b - a / c = (b * c - a) / c
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Tactic/UnifyDenoms.lean:57]: You are right, I fixed it by just not lining up.

**Comment by miguelmarco** [comment]
CI complains about unused imports, but the definition of the tactics use lemmas that are under those imports.

**Comment by YaelDillies** [comment]
As CI indicates, you need to run `lake exe shake --update` to add the troublesome imports to the list of exceptions

File: Mathlib/Algebra/EuclideanDomain/Basic.lean [hunk 11]
```diff
@@ -97,6 +97,9 @@ theorem mul_div_assoc (x : R) {y z : R} (h : z ∣ y) : x * y / z = x * (y / z)
 protected theorem mul_div_cancel' {a b : R} (hb : b ≠ 0) (hab : b ∣ a) : b * (a / b) = a := by
   rw [← mul_div_assoc _ hab, mul_div_cancel_left₀ _ hb]
 
+lemma div_mul_assoc {a b : R} (hba : b ∣ a) (c : R) : a / b * c = (a * c) / b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/EuclideanDomain/Basic.lean:100]:
```suggestion
protected lemma div_mul_assoc {a b : R} (hba : b ∣ a) (c : R) : a / b * c = (a * c) / b := by
```

File: Mathlib/Algebra/EuclideanDomain/Basic.lean [hunk 12]
```diff
@@ -398,6 +401,17 @@ theorem div_eq_div_iff_mul_eq_mul_of_dvd {x y z t : R} (h1 : y ≠ 0) (h2 : t 
   use y * a
   rw [ha, mul_comm, mul_assoc, mul_comm y a]
 
+lemma div_div' {a b c : R} (hcb : c ∣ b) (hbca : b / c ∣ a) : a / (b / c) = a * c / b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/EuclideanDomain/Basic.lean:404]:
```suggestion
protected lemma div_div_eq_mul_div {a b c : R} (hcb : c ∣ b) (hbca : b / c ∣ a) :
    a / (b / c) = a * c / b := by
```
to match `div_div_eq_mul_div`

File: Mathlib/Tactic/UnifyDenoms.lean [hunk 13]
```diff
@@ -0,0 +1,185 @@
...
+import Mathlib.Data.Int.Order.Basic
+import Mathlib.Data.Int.Order.Lemmas
+import Mathlib.Data.Nat.Order.Lemmas
+import Mathlib.Tactic.FieldSimp
+import Batteries.Data.Nat.Lemmas
+
+/-!
+# `unify_denoms` and `unify_denoms!` tactics
+
+Tactics to clear denominators in algebraic expressions, extends `field_simp`  using
```
Comment (YaelDillies) [inline Mathlib/Tactic/UnifyDenoms.lean:21]:
```suggestion
Tactics to clear denominators in algebraic expressions, extends `field_simp` using
```

File: MathlibTest/unify_denoms.lean [hunk 14]
```diff
@@ -0,0 +1,38 @@
...
+
+example (n : ℕ) : ∑ i ∈ Icc 0 n, i ^ 2 = (n * (n + 1) * (2* n + 1)) / 6 := by
+  induction n with
+  | zero => simp
+  |succ n hn =>
+    rw [Finset.sum_Icc_succ_top, hn]
+    unify_denoms
+    ring_nf
+
+example (a b : ℤ ) (h : a ≠ b): (a ^ 3 - b ^ 3) / (a - b) = a ^ 2 + a * b + b ^ 2 := by
```
Comment (YaelDillies) [inline MathlibTest/unify_denoms.lean:26]:
```suggestion
example (a b : ℤ) (h : a ≠ b) : (a ^ 3 - b ^ 3) / (a - b) = a ^ 2 + a * b + b ^ 2 := by
```

File: MathlibTest/unify_denoms.lean [hunk 15]
```diff
@@ -0,0 +1,38 @@
...
+  unify_denoms!
+  ring
+  use a ^ 2 + a * b + b ^ 2
+  ring
+
+example {T : Type} [EuclideanDomain T] (a b : T) (h : a ≠ b): (a ^ 2 - b ^ 2) / (a - b) = a + b := by
```
Comment (YaelDillies) [inline MathlibTest/unify_denoms.lean:32]:
```suggestion
example {T : Type} [EuclideanDomain T] (a b : T) (h : a ≠ b) : (a ^ 2 - b ^ 2) / (a - b) = a + b := by
```

File: MathlibTest/unify_denoms.lean [hunk 16]
```diff
@@ -0,0 +1,38 @@
...
+    unify_denoms
+    ring_nf
+
+example (n : ℕ) : ∑ i ∈ Icc 0 n, i ^ 2 = (n * (n + 1) * (2* n + 1)) / 6 := by
+  induction n with
+  | zero => simp
+  |succ n hn =>
+    rw [Finset.sum_Icc_succ_top, hn]
+    unify_denoms
+    ring_nf
```
Comment (YaelDillies) [inline MathlibTest/unify_denoms.lean:24]: Can you replace these tests by the precise computation that is done by `unify_denoms`?

File: MathlibTest/unify_denoms.lean [hunk 17]
```diff
@@ -0,0 +1,38 @@
+import Mathlib
+
+open BigOperators
+open Finset
+
+example (n : ℕ ) : n * (n + 1) / 2 + n + 1 = (n + 1) * (n + 2) / 2 := by
```
Comment (YaelDillies) [inline MathlibTest/unify_denoms.lean:6]:
```suggestion
example (n : ℕ) : n * (n + 1) / 2 + n + 1 = (n + 1) * (n + 2) / 2 := by
```

File: MathlibTest/unify_denoms.lean [hunk 18]
```diff
@@ -0,0 +1,38 @@
+import Mathlib
```
Comment (YaelDillies) [inline MathlibTest/unify_denoms.lean:1]: Does this test really need to import all of mathlib?

**Comment by YaelDillies** [comment]
> * `unify_denoms` tries to put expressions with several divisions in a form with only one division. In the case of fields, it works similarly to `field_simp`, but if the hypothesis about denominators being nonzero are not present, it assumes them

What does it do with `a / (b * c)`? Does it assume `b ≠ 0` and `c ≠ 0`, or `b * c ≠ 0`?
Is `unify_denoms` eventually going to be used in `field_simp` under the hood?

**Review by YaelDillies — COMMENTED** [review]
> * `unify_denoms` tries to put expressions with several divisions in a form with only one division. In the case of fields, it works similarly to `field_simp`, but if the hypothesis about denominators being nonzero are not present, it assumes them

What does it do with `a / (b * c)`? Does it assume `b ≠ 0` and `c ≠ 0`, or `b * c ≠ 0`?
Is `unify_denoms` eventually going to be used in `field_simp` under the hood?

**Comment by miguelmarco** [comment]
> What does it do with `a / (b * c)`? Does it assume `b ≠ 0` and `c ≠ 0`, or `b * c ≠ 0`?

In the case of fields, it will assume that the denominator is nonzero (i.e.  `b * c ≠ 0`). In the case of euclidean domains, it will also assume that the denominator divides the numerator (i.e. `(b * c) | a' ).

>  Is `unify_denoms` eventually going to be used in `field_simp` under the hood?

I hadn't thought about it. It could be useful to extend `field_simp` with these ideas, but in that case it could be a  good idea to redesign it so it is better integrated with `field_simp` (and maybe there are more efficient ways to achieve the same results). I used the design of chaining rewrites because I don't know how to write more complex tactics.

**Comment by YaelDillies** [comment]
Then I assume your tactic turns `1 / (a * b) + 1/ (b * c)` into `(b * c + a * b) / ((a * b) * (b * c))`, right?

For `field_simp`, we really would like to get `(c + a) / (a * b * c)` instead, and it will be a great improvement once we do.

Do you think you could work towards that?

**Comment by miguelmarco** [comment]
> Then I assume your tactic turns `1 / (a * b) + 1/ (b * c)` into `(b * c + a * b) / ((a * b) * (b * c))`, right?
> 
Right

> For `field_simp`, we really would like to get `(c + a) / (a * b * c)` instead, and it will be a great improvement once we do.
> 
> Do you think you could work towards that?

I will think about that. Ideally, we could have a factorization algorithm that could factor numerator and denominator, and then cancel common factors (with the hypothesis that they are nonzero). But it is hard to do that just with simple rewriting rules. Some toy cases could be done with lemmas such as

```
(b * c + a * b)  = b * (c + a)
```

and maybe combine them in a try block with 
```
(a * b) * c = b * (a * c)
....
a * (c * b) = b * (a * c)
```

This could maybe handle simple cases as the example above.

**Comment by YaelDillies** [comment]
Yes, I am afraid mathlib doesn't have much use of tactics that are merely powered by rewrites. But the community is here to help you make your tactic better!

The best course of action from here is probably for you to start a thread on Zulip (in #metaprogramming) and simultaneously learn about the internals of the `ring` tactic, which I claim will be relevant, eg [`Mathlib.Tactic.Ring.ExSum`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/Ring/Basic.html#Mathlib.Tactic.Ring.ExSum). We will be here to help 😄

**Comment by miguelmarco** [comment]
Thanks for the welcoming suggestion. 

Because of personal issues, I might not be able to work on that (at least in the short term), so if somebody else wants to push this ahead, please do.

**Comment by YaelDillies** [comment]
Thank you for the heads up! I will label this accordingly.

**Comment by Paul-Lez** [comment]
> Thank you for the heads up! I will label this accordingly.
> 
> I have also mentioned it on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/A.20potential.20path.20towards.20a.20faster.20field_simp/with/518137527).

Assigning myself since I'm hoping to have a go at this over the next few weeks!

**Review by joneugster — COMMENTED** [review]
I've stumbled across this since I started tracking PRs which have `review-requested:joneugster`.

I think this needs to be picked up by somebody again, but I can't seem to remove the review request without commenting. In the case this PR brought up to date, feel free to assign me to review :)

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
